US05173493
To a solution of diisopropylamine (1.85 g) in tetrahydrofuran (15 ml) at -70° C. under a nitrogen atmosphere was added 1.49M butyllithium in hexane (11.5 ml). After being stirred at the same temperature for 35 minutes, the mixture was treated with a solution of 10-ethyl-8,9-dihydropyrido[1,2-a]indol-6(7H)-one (3.2 g) in tetrahydrofuran (20 ml) over 5 minutes. The mixture was stirred at -70° C. for 40 minutes, and a solution of 5-methyl-1-trityl-1H-imidazol-4-carbaldehyde (5.81 g) in tetrahydrofuran (65 ml) was added dropwise over 30 minutes. After the mixture was stirred at -70° C. for 2 hours and then at room temperature for 1 hour, it was diluted with chilled water, neutralized with aqueous oxalic acid solution, and extracted with methylene chloride three times. The organic layer was washed with water and brine, dried over anhydrous magnesium sulfate, and evaporated in vacuo. The oil obtained was purified by silica gel column chromatography (1% methanol-chloroform) to give 10-ethyl-8,9-dihydro-7-[(hydroxy)(5-methyl-1-trityl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]indol-6(7H)-one (6.8 g) as an amorphous powder. The product was a mixture of two diastereoisomers.

reactant | diisopropylamine | 1.85 g | C(C)(C)NC(C)C | C6H15N
reactant | butyllithium | 1.49M | C(CCC)[Li]
reactant | 10-ethyl-8,9-dihydropyrido[1,2-a]indol-6(7H)-one | 3.2 g | C(C)C1=C2N(C3=CC=CC=C13)C(CCC2)=O | C14H15NO
reactant | 5-methyl-1-trityl-1H-imidazol-4-carbaldehyde | 5.81 g | CC1=C(N=CN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=O | C24H20N2O
reactant | oxalic acid | C(C(=O)O)(=O)O | C2H2O4
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | hexane | 11.5 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 65 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 10-ethyl-8,9-dihydro-7-[(hydroxy)(5-methyl-1-trityl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]indol-6(7H)-one | 6.8 g | C(C)C1=C2N(C3=CC=CC=C13)C(C(CC2)C(C=2N=CN(C2C)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)O)=O | C38H35N3O2
